US04256859
A solution of 100 g (0.77 mole) t-BGE in 100 ml dichloromethane was slowly added with stirring to a glass round bottom flask containing a solution of 250 g (2.4 moles) diethylene glycol and 0.5 ml boron trifluoride etherate catalyst in 150 ml dichloromethane that had first been preheated to 36° C. Over the course of addition (approximately 1.25 hr) the reaction temperature rose to about 45° C. and the dichloromethane began to reflux. The reaction was continued with stirring for about 2 hours after completion of t-BGE addition. A small quantity, approximately 1 g of sodium hydroxide and 20 ml of water were added to the reaction vessel contents. The solvent was then removed by evaporation and the product residue distilled at 0.7 mm Hg pressure. Tertiary butoxymethyl triethylene glycol (71 g, 39 percent yield) was recovered having a boiling point range from 139°-145° C. Analysis by nuclear magnetic resonance (NMR) and infrared (IR) absorption spectroscopy confirmed the product's identity.

reactant | t-BGE | 0.77 mole, 100 g | CC(C)(C)OCC1CO1 | C7H14O2
reactant | diethylene glycol | 2.4 moles, 250 g | C(COCCO)O | C4H10O3
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | boron trifluoride etherate | 0.5 ml | B(F)(F)F.CCOCC
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | sodium hydroxide | approximately 1 g | [OH-].[Na+]
product | Tertiary butoxymethyl triethylene glycol | 71 g, 39 percent yield | C(C)(C)(C)OCC(COCCOCCO)O | C11H24O5
